US06265349B1
Preparation of 3-(2-fluoro-4-methoxycarbonylmethoxy-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-86)
To 20 ml of THF, 0.24 g (60 mmol) of 60% sodium hydride was suspended under cooling with ice, and 0.32 g (6.6 mmol) of methyl glycolate, was added thereto, followed by stirring for 15 minutes. To this mixture, 2 g (6.0 mmol) of 3-(2,4-difluoro-5-nitrophenyl)-1-methyl-6-trifluormethyl-2(1H)-pyridone was added, followed by stirring at room temperature for 3 hours. The product was poured into water and extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. After distilling off ethyl acetate under reduced pressure, the obtained residue was purified by silica gel column chromatography to obtain 1.57 g (yield: 65%) of the desired product. 1H-NMR (400 MHz, CDCl3) δ value: 3.70(3H,s), 3.84(3H,s), 4.81(2H,s), 6.76(1H,d), 6.78(1H,d), 7.53(1H,d), 8.26(1H,d)ppm.

reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | sodium hydride | 60 mmol, 0.24 g | [H-].[Na+]
reactant | methyl glycolate | 6.6 mmol, 0.32 g | C(CO)(=O)OC | C3H6O3
reactant | 3-(2,4-difluoro-5-nitrophenyl)-1-methyl-6-trifluormethyl-2(1H)-pyridone | 6.0 mmol, 2 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])C=1C(N(C(=CC1)C(F)(F)F)C)=O | C13H7F5N2O3
solvent | water | O | H2O
product | 3-(2-fluoro-4-methoxycarbonylmethoxy-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 1.57 g, yield: 65% | FC1=C(C=C(C(=C1)OCC(=O)OC)[N+](=O)[O-])C=1C(N(C(=CC1)C(F)(F)F)C)=O | C16H12F4N2O6
